US07414076B2
Preparation of 3-[(1R)-1-(4-methylphenyl)ethyl]amino-1-propanesulfonic acid (Compound FN)
To a solution of (R)-(+)-1-(4-methoxyphenyl)ethylamine (5.83 g, 38,6 mmol) in tetrahydrofuran (25 mL) was slowly added 1,3-propanesultone (4.56 g, 36.8 mmol). The solution was stirred at reflux for 4 hours. The reaction mixture was cooled to room temperature. The solid was collected by filtration, washed with THF (25 mL) and acetone (25 mL). The solid was suspended in EtOH (200 mL). The suspension was stirred at reflux for 15 min. The solid was collected by filtration, washed with cold EtOH (50 mL), and dried in a vacuum oven (50° C.), to afford compound FN (5.6 g, 56%). 1H NMR (D2O, 500 MHz) δ ppm 7.26 (d, 2H, J=8.3 Hz), 6.90 (d, 2H, J=8.3 Hz), 4.22 (m, 1H), 3.68 (s, 3H), 2.92 (m, 1H), 2.76 (m, 3H), 1.90 (m, 2H), 1.49 (d, 3H, J=6.8 Hz). 13C NMR (D2O, 125 MHz) δ ppm 159.87, 129.34, 128.18, 114.85, 57.99, 55.58, 48.05, 44.21, 21.45, 18.21. ES-MS 272 (M−1).

reactant | (R)-(+)-1-(4-methoxyphenyl)ethylamine | 38,6 mmol, 5.83 g | COC1=CC=C(C=C1)[C@@H](C)N | C9H13NO
reactant | 1,3-propanesultone | 36.8 mmol, 4.56 g | C1COS(=O)(=O)C1 | C3H6O3S
reactant | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 3-[(1R)-1-(4-methylphenyl)ethyl]amino-1-propanesulfonic acid | CC1=CC=C(C=C1)[C@@H](C)NCCCS(=O)(=O)O | C12H19NO3S
